### PR TITLE
[Merged by Bors] - feat(SkewMonoidAlgebra): single_left_inj

### PR DESCRIPTION
**Pull request by xgenereux**
A single (!) lemma analogous to [`Finsupp.single_left_inj`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finsupp/Single.html#Finsupp.single_left_inj).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean [hunk 1]
```diff
@@ -265,6 +265,10 @@ theorem smul_single {S} [SMulZeroClass S k] (s : S) (a : G) (b : k) :
 theorem single_injective (a : G) : Function.Injective (single a : k → SkewMonoidAlgebra k G) :=
   toFinsuppAddEquiv.symm.injective.comp (Finsupp.single_injective a)
 
+theorem single_left_inj {a a' : G} {b : k} (h : b ≠ 0) : single a b = single a' b ↔ a = a' := by
+  rw [← toFinsupp_inj]
+  exact Finsupp.single_left_inj h
```
Comment (themathqueen) [inline Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean:270]: if you want you can do the same thing but with one line:
```suggestion
theorem single_left_inj {a a' : G} {b : k} (h : b ≠ 0) : single a b = single a' b ↔ a = a' :=
  toFinsupp_inj.symm.trans <| Finsupp.single_left_inj h
```

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
